US06455548B2
Preparation of 4-(Methoxyethyl)piperidine
To a solution of 825 mg (3.6 mmol) of 1-t-butoxycarbonyl-4-hydroxyethylpiperidine in 2.5 mL of DMF was added 0.21 g (7.2 mmol) of NaH (80% dispersion in mineral oil) in 3 portions over a period of 30 min. After 16 h 10 mL of H2O was added to the reaction mixture and it was extracted with ethyl acetate. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate=4:1) to give the title compound.

reactant | 1-t-butoxycarbonyl-4-hydroxyethylpiperidine | 3.6 mmol, 825 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | NaH | 7.2 mmol, 0.21 g | [H-].[Na+]
reactant | H2O | 10 mL | O | H2O
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 4-(Methoxyethyl)piperidine | COCCC1CCNCC1 | C8H17NO
